US06436929B1
4,4-Diethyl-6-(3-nitrophenyl)-1,4-dihydrobenzo[d][1,3]oxazin-2-one was prepared, from 4,4-diethyl-6-iodo-1,4-dihydrobenzo[d][1,3]oxazin-2-one and 3-nitrophenyl boronic acid according to the procedure of Example 4, as an off-white solid: mp 193-194° C.; 1H-NMR (CDCl3) δ9.19 (s, 1H, D2O exchangeable), 8.38 (t, 1H, J=1.9 Hz), 8.20 (m, 1H), 7.83 (m, 1H), 7.61 (t, 1H, J=8.0 Hz), 7.50 (dd, 1H, J=8.2, 2.0 Hz), 7.23 (d, 1H, J=1.7 Hz), 6.99 (d, 1H, J=8.3 Hz), 2.09 (q, 4H, J=7.4 Hz), 0.96 (t, 6H, J=8.3 Hz); MS (EI) m/z 325 ([M−H]−, 100%). Anal. Calc. For C18H18N2O4.0.3H2O: C, 65.17; H, 5.65, N, 8.44. Found: C, 65.31; H, 5.60; N, 8.10.

reactant | 4,4-diethyl-6-iodo-1,4-dihydrobenzo[d][1,3]oxazin-2-one | C(C)C1(C2=C(NC(O1)=O)C=CC(=C2)I)CC | C12H14INO2
reactant | 3-nitrophenyl boronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 4,4-Diethyl-6-(3-nitrophenyl)-1,4-dihydrobenzo[d][1,3]oxazin-2-one | C(C)C1(C2=C(NC(O1)=O)C=CC(=C2)C2=CC(=CC=C2)[N+](=O)[O-])CC | C18H18N2O4
